US08222416B2
To a solution of 1-(1-benzenesulfonyl-5-trifluoromethyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclopentyl-ethanol (1.34 g, 3.07 mmol) in dichloromethane (50 ml) was added Dess-Martin periodinane (2.6 g, 6.14 mmol) at 25° C. The reaction mixture was stirred at 25° C. for 1 h and then quenched with a saturated aqueous sodium bicarbonate solution (20 mL). The mixture was extracted with ethyl acetate (100 mL), washed with a saturated aqueous sodium bicarbonate solution (3×20 mL), brine, dried over anhydrous sodium sulfate and then concentrated in vacuo. The residue was purified by flash column chromatography (silica gel from QingDao, 200-300 mesh, 50% dichloromethane/hexanes) to afford 1-(1-benzenesulfonyl-5-trifluoromethyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclopentyl-ethanone (1.33 g, 100%) as a light yellow solid: LC/MS m/e calcd for C21H19F3N2O3S [M+H]+ 437.46, observed 436.8.

reactant | 1-(1-benzenesulfonyl-5-trifluoromethyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclopentyl-ethanol | 3.07 mmol, 1.34 g | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)C(F)(F)F)C(CC2CCCC2)O | C21H21F3N2O3S
reactant | Dess-Martin periodinane | 6.14 mmol, 2.6 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 1-(1-benzenesulfonyl-5-trifluoromethyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclopentyl-ethanone | 1.33 g, 100% | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)C(F)(F)F)C(CC2CCCC2)=O | C21H19F3N2O3S
